US07579488B2
E. 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid ethyl ester.
5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-benzofuran-2-carboxylic acid ethyl ester (4.04 g, 10.6 mmol) and 1-bromopinacolone (2.66 g, 14.9 mmol) and K2CO3 (2.91 g, 21.2 mmol) are reacted analogous to Example 1E to give the title compound as a pale yellow oil (4.77 g, 94%).

reactant | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 10.6 mmol, 4.04 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C24H28O4
reactant | 1-bromopinacolone | 14.9 mmol, 2.66 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 21.2 mmol, 2.91 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 4.77 g, 94% | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C30H38O5
